US07547680B2
4-Benzyloxy-3-hydroxybenzaldehyde
3,4-Dihydroxybenzaldehyde (21.6 g) and potassium carbonate (21.56 g) were suspended in N,N-dimethylformamide (200 mL). To the mixture was added dropwise benzylbromide (18.5 mL) under ice-cooling, and the mixture was stirred at room temperature for 16 hours. To the reaction mixture was added dropwise 2 mol/L hydrochloric acid (400 mL), and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (19.0 g).

reactant | 3,4-Dihydroxybenzaldehyde | 21.6 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium carbonate | 21.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 18.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 2 mol/L, 400 mL | Cl | ClH
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-Benzyloxy-3-hydroxybenzaldehyde | 19.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)O | C14H12O3
